US05607950
1-(4-Chlorophenethyl)-2-(2-cyano-2,2-diphenylethyl)piperidine Hydrobromide
A solution of 1-(4-chlorophenethyl)-2-(2-cyano-2,2-diphenylethyl)pyridinium bromide (252 mg, 0.50 mmol) (see Preparation 4) in methanol (3 ml) was stirred at room temperature under one atmosphere of hydrogen in the presence of platinum oxide (20 mg) for 3 hours, filtered and evaporated to give the title compound (255 mg, 100%) as a colourless foam.

reactant | 1-(4-chlorophenethyl)-2-(2-cyano-2,2-diphenylethyl)pyridinium bromide | 0.50 mmol, 252 mg | [Br-].ClC1=CC=C(CC[N+]2=C(C=CC=C2)CC(C2=CC=CC=C2)(C2=CC=CC=C2)C#N)C=C1
reactant | hydrogen | [H][H] | H2
solvent | methanol | 3 ml | CO | CH4O
catalyst | platinum oxide | 20 mg | [Pt]=O
product | 1-(4-Chlorophenethyl)-2-(2-cyano-2,2-diphenylethyl)piperidine Hydrobromide | 255 mg, 100% | Br.ClC1=CC=C(CCN2C(CCCC2)CC(C2=CC=CC=C2)(C2=CC=CC=C2)C#N)C=C1 | InChI=1S/C28H29ClN2.BrH/c29-26-16-14-23(15-17-26)18-20-31-19-8-7-13-27(31)21-28(22-30,24-9-3-1-4-10-24)25-11-5-2-6-12-25;/h1-6,9-12,14-17,27H,7-8,13,18-21H2;1H
